US07285555B2
A mixture of 2,4,6-trifluorophenylacetic acid (570 mg, 3.0 mmol), iodoethane (1.56 g, 10 mmol), and potassium carbonate (1.38 g, 10 mmol) in 5 mL of dimethylsulfoxide is stirred at 50° C. for 3 h, and cooled to room temperature. The mixture is partitioned between diethyl ether and water. The organic layer is washed with water, and saturated sodium chloride, dried over magnesium sulfate, and filtered through magnesol. The filtrate is concentrated to give ethyl 2,4,6-trifluorophenylacetate as a light yellow oil (581 mg, 2.66 mmol).

reactant | 2,4,6-trifluorophenylacetic acid | 3.0 mmol, 570 mg | FC1=C(C(=CC(=C1)F)F)CC(=O)O | C8H5F3O2
reactant | iodoethane | 10 mmol, 1.56 g | ICC | C2H5I
reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 5 mL | CS(=O)C | C2H6OS
product | ethyl 2,4,6-trifluorophenylacetate | 2.66 mmol, 581 mg | FC1=C(C(=CC(=C1)F)F)CC(=O)OCC | C10H9F3O2
